US08030337B2
N-[2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]benzamide
2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethanamine hydrochloride (100 mg, 0.396 mmol) and triethylamine (111 μL, 0.792 mmol) were dissolved in tetrahydrofuran (4 mL), benzoyl chloride (55.1 μL, 0.475 mmol) was added under ice-cooling, and the mixture was stirred for 15 min. To the reaction solution was added saturated aqueous sodium hydrogencarbonate solution, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→60/40) to give the title compound (55.6 mg, yield 44%).

reactant | 2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethanamine hydrochloride | 0.396 mmol, 100 mg | Cl.CC=1OC2=C(N1)C=CC=1CCC(C12)CCN
reactant | triethylamine | 0.792 mmol, 111 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.475 mmol, 55.1 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | N-[2-(2-Methyl-7,8-dihydro-6H-indeno[5,4-d][1,3]oxazol-8-yl)ethyl]benzamide | 55.6 mg, yield 44% | CC=1OC2=C(N1)C=CC=1CCC(C12)CCNC(C1=CC=CC=C1)=O | C20H20N2O2
